US07622469B2
6-Octyl-2,4-diamino-1,6-dihydro-1-(4′-trifluoromethoxyphenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 4.4 ml (25.6 mmol) of 1-nonanal, and 0.7 ml of concentrated hydrochloric acid were added to 5.0 g (16.8 mmol) of N1-(4-trifluoromethoxyphenyl)-biguanide hydrochloride, and the mixture was refluxed for 9 hours. The solvent was distilled off under reduced pressure, and the residue was recrystallized from hydrous ethanol to obtain 0.7 g of colorless crystals having a melting point of 216 to 220° C.

reactant | 1-nonanal | 25.6 mmol, 4.4 ml | C(CCCCCCCC)=O | C9H18O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N1-(4-trifluoromethoxyphenyl)-biguanide hydrochloride | 16.8 mmol, 5.0 g | Cl.FC(OC1=CC=C(C=C1)NC(=N)NC(=N)N)(F)F
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Octyl-2,4-diamino-1,6-dihydro-1-(4′-trifluoromethoxyphenyl)-1,3,5-triazine hydrochloride | 0.7 g | Cl.C(CCCCCCC)C1N=C(N=C(N1C1=CC=C(C=C1)OC(F)(F)F)N)N | InChI=1S/C18H26F3N5O.ClH/c1-2-3-4-5-6-7-8-15-24-16(22)25-17(23)26(15)13-9-11-14(12-10-13)27-18(19,20)21;/h9-12,15H,2-8H2,1H3,(H4,22,23,24,25);1H
